### PR TITLE
feat: new definitions for memory separation

### PR DESCRIPTION
**Pull request by bollu**
### New Memory Model
The new memory model is different from the old one in two ways:
1. It uses (base pointer, length) to keep track of memory regions instead of closed intervals of [pointer 1, pointer 2].
2. To faciliatate the new representation, it bakes in the assumption that the memory region is legal
   (i.e. no wraparound).
3. More softly, it tries to keep reasoning in terms of `Nat` rather than `BitVec` in order to allow easier
   automation via `omega` for proving disjointedness / subset assumptions.
All of the new definitions are named after the old definitions with a prime (') after their name.
For robustness (and confidence), we plan to prove theorems that establish the equivalence of the old and new memory models.

### CODE REVIEW

File: Arm/Memory/Separate.lean [hunk 1]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+  · simp [h]
+  · rw [Nat.mod_eq_of_lt (a := 2^w₁ - x.toNat) (by omega)]
+    rw [Nat.sub_sub_eq_min]
+    rw [Nat.min_def]
+    simp [show ¬ 2^w₁ ≤ x.toNat by omega]
+
+@[simp]
+theorem BitVec.neg_eq_sub_zero (x : BitVec w₁) : - x = 0 - x := by
+  apply BitVec.eq_of_toNat_eq
+  simp only [toNat_neg, ofNat_eq_ofNat, toNat_sub, toNat_ofNat, Nat.zero_mod, Nat.add_zero]
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:162]: This doesn't feel like it should be a `simp` lemma (if anything, it should be in the opposite order)

File: Arm/Memory/Separate.lean [hunk 2]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+
+theorem toNat_sub_eq_two_pow_sub_add_of_lt
+    {a b : BitVec w₁} (hab : a.toNat < b.toNat) : (a - b).toNat = 2^w₁ - b.toNat + a.toNat := by
+  simp only [toNat_sub]
+  rw [Nat.mod_eq_of_lt (by omega)]
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:167]: Should these three theorems be moved to the `BitVec` kitchen sink file?

Comment (alexkeizer) [inline Arm/Memory/Separate.lean:167]: `toNat_sub_eq_two_pow_sub_add_of_lt` should be in the BitVec namespace as well

File: Arm/Memory/Separate.lean [hunk 3]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+
+/--
+Given two legal memory regions `[a1, a2]` and `[b1, b2]`,
+such that either the first one ends before the second one starts (`a2 < b1`),
+or the first one starts after the second one ends `(a1 > b2)`,
+the memory regions are separate.
+-/
+theorem mem_separate_of_lt_or_gt_of_mem_legal_of_mem_legal (h : a2 < b1 ∨ a1 > b2)
+    (ha : mem_legal a1 a2) (hb : mem_legal b1 b2) :
+    mem_separate a1 a2 b1 b2 := by
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:177]: This means we have an `iff` relation, right? Do we want to add an explicit theorem with the `iff` (possibly making that one a `simp`)?

File: Arm/Memory/Separate.lean [hunk 4]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+
+/--
+Legal in the new sense implies legal in the old sense.
+Note that the subtraction could also have been written as `(b - a).toNat + 1`
+-/
+theorem mem_legal'_of_mem_legal (h: mem_legal a b) : mem_legal' a (b.toNat - a.toNat + 1) := by
+  simp only [mem_legal, decide_eq_true_eq] at h
+  rw [mem_legal']
+  rw [BitVec.le_def] at h
+  omega
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:304]: These feel like they should be combined into a `mem_legal_iff_mem_legal'` (or prime iff non-prime) lemma

File: Arm/Memory/Separate.lean [hunk 5]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+
+def mem_legal'.of_mem_legal'_of_lt (h : mem_legal' a n) (m : Nat) (hm : m ≤ n) :
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:306]:
```suggestion
def mem_legal'_of_mem_legal'_of_lt (h : mem_legal' a n) (m : Nat) (hm : m ≤ n) :
```

File: Arm/Memory/Separate.lean [hunk 6]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+`mem_separate' a an b bn` asserts that two memory regions [a..an) and [b..bn) are separate.
+Note that we use *half open* intervals.
+See also: Why numbering should start at zero (https://www.cs.utexas.edu/~EWD/ewd08xx/EWD831.PDF)
+-/
+structure mem_separate' (a : BitVec 64) (an : Nat) (b : BitVec 64) (bn : Nat) : Prop where
+  ha : mem_legal' a an
+  hb : mem_legal' b bn
+  h : a.toNat + an ≤ b.toNat ∨ a.toNat ≥ b.toNat + bn
+
+-- @[simp]
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:321]:
```suggestion
```

File: Arm/Memory/Separate.lean [hunk 7]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+theorem BitVec.not_le_eq_lt {a b : BitVec w₁} : (¬ (a ≤ b)) ↔ b < a := by
+  rw [BitVec.le_def, BitVec.lt_def]
+  omega
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:324]: move to the `BitVec`  kitchen sink file?

File: Arm/Memory/Separate.lean [hunk 8]
```diff
@@ -115,6 +116,505 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+If `[a..an)` is a subset of `[b..bn)`,
+then `[a..an')` is a subset of `[b..bn)` if `an' ≤ an`.
+-/
+theorem mem_subset'_of_length_le (h : mem_subset' a an b bn)
+  (han' : an' ≤ an) : mem_subset' a an' b bn := by
+  apply mem_subset'_of_le_of_le h
+  · simp [BitVec.le_def]
+  · omega
+
+/-- if `[a..an) ≤ [b..bn)` and `[b..bn) ⟂ [c..cn)`, then `[a..an) ⟂ [c..cn)`. -/
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:396]: Minor nit: I don't think you've used `⟂` before, might be worth explaining the symbol?

File: Arm/Memory/Separate.lean (hunk 7 above)
Comment (alexkeizer) [reply Arm/Memory/Separate.lean:324]: Also check the rest of the file for "pure" `BitVec` theorems that can be moved

**Review by alexkeizer — COMMENTED** [review]
I really like the comments you've written, they help me a lot with understanding what the lemma actual means!

I mostly have some minor comments about organization, the rest of the PR LGTM

File: Arm/Memory/Separate.lean (hunk 4 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:304]: It's not so simple, because the bounds of `mem_legal` look slightly different, so it's not clear what value such a theorem would have.

File: Arm/Memory/Separate.lean (hunk 2 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:167]: Done!

Comment (bollu) [reply Arm/Memory/Separate.lean]: Moved.

File: Arm/Memory/Separate.lean (hunk 8 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:374]: Done, added prose.

File: Arm/Memory/Separate.lean (hunk 3 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:156]: Done.

File: Arm/Memory/Separate.lean (hunk 4 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:282]: But I proved it anyway!

File: Arm/BitVec.lean [hunk 9]
```diff
@@ -672,8 +672,27 @@ protected theorem shift_left_zero_eq (n : Nat) (x : BitVec n) : x <<< 0 = x := b
...
 
+---------------------------- Negate Lemmas ---------------------------
+
+
+@[simp]
+theorem neg_neg (x : BitVec w₁) : - (- x) = x := by
+  apply BitVec.eq_of_toNat_eq
+  simp only [toNat_neg]
+  by_cases h : x.toNat = 0
+  · simp [h]
```
Comment (bollu) [inline Arm/BitVec.lean:682]: I know that this is a terminal `simp`. I'd like to keep it this way, since these are *pure* Lean-related `BitVec` lemmas that I wish to upstream.

**Comment by bollu** [comment]
@shigoel All comments addressed, PR good for merge IMO!

File: Arm/State.lean
Comment (shigoel) [inline Arm/State.lean:1]: @bollu `Arm/State.lean` is getting a bit too large. Let's try to separate out the memory part in subsequent PRs.

File: Arm/Memory/Separate.lean [hunk 10]
```diff
@@ -115,6 +116,497 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+1. It uses (base pointer, length) to keep track of memory regions instead of closed inntervals of [pointer 1, pointer 2].
+2. To faciliatate the new representation, it bakes in the assumption that the memory region is legal
+   (i.e. no wraparound).
+3. More softly, it tries to keep reasoning in terms of `Nat` rather than `BitVec` in order to allow easier
+   automation via `omega` for proving disjointedness / subset assumptions.
+
+All of the new definitions are named after the old definitions with a prime (') after their name.
+For robustness (and confidence), we plan to prove theorems that establish the equivalence of the old and new memory models.
+-/
+section NewDefitions
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:253]:
```suggestion
section NewDefinitions
```

File: Arm/Memory/Separate.lean [hunk 11]
```diff
@@ -115,6 +116,497 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
 end Separate
 
+/-#
+
+### New Memory Model
+
+The new memory model is different from the old one in two ways:
+
+1. It uses (base pointer, length) to keep track of memory regions instead of closed inntervals of [pointer 1, pointer 2].
+2. To faciliatate the new representation, it bakes in the assumption that the memory region is legal
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:245]:
```suggestion
2. To facilitate the new representation, it bakes in the assumption that the memory region is legal
```

File: Arm/Memory/Separate.lean [hunk 12]
```diff
@@ -115,6 +116,497 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+-- theorem Nat.sub_mod_eq (x y : Nat) : (x - y) % t =
+
+private theorem Nat.sub_mod_eq_of_lt_of_le {x y : Nat} (hx : x < n) (hy : y ≤ x) :
+    (x - y) % n = (x % n) - (y % n) := by
+  rw [Nat.mod_eq_of_lt (by omega)]
+  rw [Nat.mod_eq_of_lt (by omega)]
+  rw [Nat.mod_eq_of_lt (by omega)]
+
+-- mem_subset' is a safe over-approximation of mem_subset.
+theorem mem_subset_of_mem_subset' (h : mem_subset' a an b bn) (han : an > 0) (hbn : bn > 0) :
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:436]: Nice!!

File: Arm/Memory/Separate.lean [hunk 13]
```diff
@@ -115,6 +116,497 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+  · have := hsrc.size_le_two_pow
+    omega
+
+theorem BitVec.toNat_ofNat_lt {n w₁ : Nat} (hn : n < 2^w₁) :
+    (BitVec.ofNat w₁ n).toNat = n := by
+  simp only [toNat_ofNat, Nat.mod_eq_of_lt hn]
+
+theorem BitVec.ge_of_not_lt (x y : BitVec w₁) (h : ¬ (x < y)) : x ≥ y := by
+  simp_all only [BitVec.le_def, BitVec.lt_def]
+  omega
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:527]: Move to `Arm.BitVec.lean`.

File: Arm/Memory/Separate.lean [hunk 14]
```diff
@@ -115,6 +116,497 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+  obtain ⟨hsrc, hdest, hsplit⟩ := hsep
+  rw [Memory.getLsb_read_bytes, Memory.getLsb_write_bytes, Memory.getLsb_read_bytes]
+  simp only [i.isLt]
+  simp only [decide_True, ite_eq_left_iff, Bool.true_and]
+  intros h₁
+  intros h₂
+  -- we need to make use of mem_separate to show that src_addr + i / 8 < dest_addr | src_addr + i/7 ≥ dest_addr + 16
+  exfalso
+  · rcases hsplit with this | this
+    · simp only [BitVec.not_lt, BitVec.le_def, BitVec.toNat_add,
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:496]: Try using `bitvec_rules` here?

File: Arm/Memory/Separate.lean (hunk 13 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:527]: done!

File: Arm/Memory/Separate.lean [hunk 15]
```diff
@@ -115,6 +116,497 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+
+-- theorem Nat.sub_mod_eq (x y : Nat) : (x - y) % t =
+
+private theorem Nat.sub_mod_eq_of_lt_of_le {x y : Nat} (hx : x < n) (hy : y ≤ x) :
+    (x - y) % n = (x % n) - (y % n) := by
+  rw [Nat.mod_eq_of_lt (by omega)]
+  rw [Nat.mod_eq_of_lt (by omega)]
+  rw [Nat.mod_eq_of_lt (by omega)]
+
+-- mem_subset' is a safe over-approximation of mem_subset.
```
[the remark this answers is not in the document]
Comment (bollu) [reply Arm/Memory/Separate.lean:435]: Done

File: Arm/Memory/Separate.lean (hunk 14 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:496]: @shigoel This is too annoying to do throughout the file, as once in a while, `bitvec_rules` does not cover some lemma that `simp` does. I'd be happy to do this throughout the file, provided I'm allowed to take theorems that `simp` already has in its simp set which are missing from `bitvec_rules` / `minimal_theory`.

Example missing rules:
- `BitVec.not_lt`
- `BitVec.toNat_ofNat`
- `Fin.is_lt`
- `Bool.false_eq`
- `Bool.and_eq_false_imp`

File: Arm/Memory/Separate.lean [hunk 16]
```diff
@@ -115,6 +116,497 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+          rw [BitVec.toNat_ofNat_lt (by omega)]
+          have himod : (i / 8) * 8 + (i % 8) = i := by omega
+          rw [Nat.mul_sub_right_distrib, Nat.mul_sub_right_distrib,
+            Nat.add_mul]
+          conv =>
+            rhs
+            rw [← himod]
+          rw [BitVec.le_def] at hstart
+          omega
+    · simp only [h₁, decide_False, BitVec.toNat_add, BitVec.toNat_ofNat,
```
[the remark this answers is not in the document]
Comment (bollu) [reply Arm/Memory/Separate.lean:597]: Same comment as above: Happy to perform the refactor if I'm allowed to add rules :) I decided that I am indeed, and simplified it to `minimal_theory` + `bitvec_rules`.

**Comment by bollu** [comment]
@shigoel comments addressed!

**Review by shigoel — APPROVED** [review]
This is nice! Thanks, @bollu.
